US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[3-(4-(4,4,5,5,5-pentafluoropentylsulfinyl)butyloxy)phenyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[3-(4-(4,4,5,5,5-pentafluoropentylthio)butyloxy)phenyl]-2,3-dihydro-4H-benzopyran (72 mg, 0.12 mmol) was dissolved in methanol (5 ml) and water (1 ml), and NaIO4 (35 mg, 0.16 mmol) was added thereto. The reaction solution was stirred for 12 hours at room temperature and then extracted with ethyl acetate. The organic layer thus separated was washed with water, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to column chromatography (n-hexane:ethyl acetate=2:1) to obtain 66 mg (yield: 89%) of the title compound as a white foam.

reactant | (3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[3-(4-(4,4,5,5,5-pentafluoropentylthio)butyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 0.12 mmol, 72 mg | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)C2=CC(=CC=C2)OCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C31H33F5O4S
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[3-(4-(4,4,5,5,5-pentafluoropentylsulfinyl)butyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 66 mg, yield: 89% | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)C2=CC(=CC=C2)OCCCCS(=O)CCCC(C(F)(F)F)(F)F)C=C1 | C31H33F5O5S
